US08426420B2
(ii) 4-((S)-2-{[5-Benzyloxycarbonylmethoxy-1-(3-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester
To a solution of 3.000 g 4-((S)-4-tert-Butoxycarbonyl-2-{[1-(3-fluoro-phenyl)-5-hydroxy-1H-pyrazole-3-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester in 20 ml DMF were added 0.908 ml benzyl bromoacetate and 3.571 g cesium carbonate. After stirring at RT for 12 h the solution was reduced to a volume of 50 ml, diluted with 200 ml ethyl acetate and extracted with aqueous LiCl (4% w/w) and aqueous NaHCO3. The crude product obtained after evaporation of the solvent was used in the subsequent reaction.

reactant | 4-((S)-4-tert-Butoxycarbonyl-2-{[1-(3-fluoro-phenyl)-5-hydroxy-1H-pyrazole-3-carbonyl]-amino}-butyryl)-piperazine-1-carboxylic acid ethyl ester | 3.000 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)O)C1=CC(=CC=C1)F)=O | C26H34FN5O7
reactant | benzyl bromoacetate | 0.908 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | cesium carbonate | 3.571 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 4-((S)-2-{[5-Benzyloxycarbonylmethoxy-1-(3-fluoro-phenyl)-1H-pyrazole-3-carbonyl]-amino}-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)OCC1=CC=CC=C1)C1=CC(=CC=C1)F)=O | C35H42FN5O9
